US04214094
In 50 ml of dried methanol are dissolved 10.0 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]propionate and 1.68 g of potassium hydroxide. The mixture is stirred at room temperature for 5 hours. After concentrating the reaction mixture, water is added to the residue, and the resulting solution is washed with ether. The aqueous layer is acidified with hydrochloric acid and extracted with ether. The extract is washed with water, then dried over magnesium sulfate and thereafter the solvent is distilled off. The resulting crystalline residue is recrystallized from benzene to give 8.0 g of 2-[4-(4-chloroanilinomethyl)phenoxy]propionic acid, mp 148° to 149° C.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]propionate | 10.0 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C18H20ClNO3
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(4-chloroanilinomethyl)phenoxy]propionic acid | 8.0 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)O)C)C=C2)C=C1 | C16H16ClNO3
